US07750003B2
2-[4-(Cyclopropylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine-4-carboxylic acid
Methyl 2-[4-(cyclopropylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine-4-carboxylate (350 mg) was dissolved in water (15 mL) containing sodium hydroxide (67 mg) and the reaction was allowed to stir at RT for 1 h. A further 2 equivalents of sodium hydroxide were added along with THF (3 mL). The reaction was stirred for another 1 h then the THF removed under reduced pressure and the aqueous solution partitioned with ethyl acetate (15 mL). The aqueous layer was acidified with concentrated hydrochloric acid and the precipitate was filtered and dried in a vac-oven at 50° C. for 18 h to give the desired material (350 mg) as a white solid.

reactant | Methyl 2-[4-(cyclopropylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine-4-carboxylate | 350 mg | C1(CC1)NC(=O)NC1=CC=C(C=C1)C1=NC(=CC(=N1)C(=O)OC)N1[C@H](COCC1)C | C21H25N5O4
reactant | sodium hydroxide | 67 mg | [OH-].[Na+]
reactant | sodium hydroxide | 2 equivalents | [OH-].[Na+]
reactant | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 2-[4-(Cyclopropylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine-4-carboxylic acid | 350 mg | C1(CC1)NC(=O)NC1=CC=C(C=C1)C1=NC(=CC(=N1)C(=O)O)N1[C@H](COCC1)C | C20H23N5O4
